Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
CC(C)(C)OC(=O)[NH:1][C@@H:2]([CH2:3][C:4]([N:5]1[CH2:6][CH2:7][CH2:8][C@@H:9]([c:10]2[n:11]([CH2:12][CH2:13][CH2:14][O:15][CH3:16])[c:17]3[c:18]([n:19]2)[cH:20][cH:21][cH:22][cH:23]3)[CH2:24]1)=[O:25])[CH2:26][c:27]1[cH:28][cH:29][c:30]([N:31]2[CH2:32][CH2:33][CH2:34][C:35]2=[O:36])[cH:37][cH:38]1>>[NH2:1][C@@H:2]([CH2:3][C:4]([N:5]1[CH2:6][CH2:7][CH2:8][C@@H:9]([c:10]2[n:11]([CH2:12][CH2:13][CH2:14][O:15][CH3:16])[c:17]3[c:18]([n:19]2)[cH:20][cH:21][cH:22][cH:23]3)[CH2:24]1)=[O:25])[CH2:26][c:27]1[cH:28][cH:29][c:30]([N:31]2[CH2:32][CH2:33][CH2:34][C:35]2=[O:36])[cH:37][cH:38]1,[CH3:202][C:203]([CH3:204])([CH3:205])[O:206][C:101](=[O:201])[NH:1][C@@H:2]([CH2:3][C:4]([N:5]1[CH2:6][CH2:7][CH2:8][C@@H:9]([c:10]2[n:11]([CH2:12][CH2:13][CH2:14][O:15][CH3:16])[c:17]3[c:18]([n:19]2)[cH:20][cH:21][cH:22][cH:23]3)[CH2:24]1)=[O:25])[CH2:26][c:27]1[cH:28][cH:29][c:30]([N:31]2[CH2:32][CH2:33][CH2:34][C:35]2=[O:36])[cH:37][cH:38]1.[H+:301]>>[NH2:1][C@@H:2]([CH2:3][C:4]([N:5]1[CH2:6][CH2:7][CH2:8][C@@H:9]([c:10]2[n:11]([CH2:12][CH2:13][CH2:14][O:15][CH3:16])[c:17]3[c:18]([n:19]2)[cH:20][cH:21][cH:22][cH:23]3)[CH2:24]1)=[O:25])[CH2:26][c:27]1[cH:28][cH:29][c:30]([N:31]2[CH2:32][CH2:33][CH2:34][C:35]2=[O:36])[cH:37][cH:38]1,Boc_deprotection,"[(201, 301), ([203, 206], [206, 101]), ([101, 201], 201), (1, 201.1), ([201.1, 201], 201), (201, [201, 101]), ([101, 1], 1), ([202.1, 202], [202, 203])]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Br[CH2:1][C:2]([O:3][CH2:4][CH3:5])=[O:6].[O:7]=[C:8]([CH2:9][CH2:10][C:11]#[C:12][c:13]1[cH:14][cH:15][c:16]([C:17]([F:18])([F:19])[F:20])[cH:21][cH:22]1)[NH:23][CH2:24][c:25]1[cH:26][cH:27][c:28]2[cH:29][cH:30][nH:31][c:32]2[cH:33]1>>[CH2:1]([C:2]([O:3][CH2:4][CH3:5])=[O:6])[n:31]1[cH:30][cH:29][c:28]2[cH:27][cH:26][c:25]([CH2:24][NH:23][C:8](=[O:7])[CH2:9][CH2:10][C:11]#[C:12][c:13]3[cH:14][cH:15][c:16]([C:17]([F:18])([F:19])[F:20])[cH:21][cH:22]3)[cH:33][c:32]12,[O:7]=[C:8]([CH2:9][CH2:10][C:11]#[C:12][c:13]1[cH:14][cH:15][c:16]([C:17]([F:18])([F:19])[F:20])[cH:21][cH:22]1)[NH:23][CH2:24][c:25]1[cH:26][cH:27][c:28]2[cH:29][cH:30][nH:31][c:32]2[cH:33]1.[Br:101][CH2:1][C:2]([O:3][CH2:4][CH3:5])=[O:6]>>[CH2:1]([C:2]([O:3][CH2:4][CH3:5])=[O:6])[n:31]1[cH:30][cH:29][c:28]2[cH:27][cH:26][c:25]([CH2:24][NH:23][C:8](=[O:7])[CH2:9][CH2:10][C:11]#[C:12][c:13]3[cH:14][cH:15][c:16]([C:17]([F:18])([F:19])[F:20])[cH:21][cH:22]3)[cH:33][c:32]12,SN2,"[(31, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
CS(=O)(=O)O[CH:1]([C:2]([NH:3][c:4]1[cH:5][c:6]2[cH:7][n:8][n:9]([C:10]([O:11][C:12]([CH3:13])([CH3:14])[CH3:15])=[O:16])[c:17]2[cH:18][cH:19]1)=[O:20])[c:21]1[cH:22][cH:23][cH:24][c:25]([Cl:26])[cH:27]1.[CH3:28][C:29]([CH3:30])([CH3:31])[O:32][C:33](=[O:34])[NH:35][CH2:36][CH2:37][NH2:38]>>[CH:1]([C:2]([NH:3][c:4]1[cH:5][c:6]2[cH:7][n:8][n:9]([C:10]([O:11][C:12]([CH3:13])([CH3:14])[CH3:15])=[O:16])[c:17]2[cH:18][cH:19]1)=[O:20])([c:21]1[cH:22][cH:23][cH:24][c:25]([Cl:26])[cH:27]1)[NH:38][CH2:37][CH2:36][NH:35][C:33]([O:32][C:29]([CH3:28])([CH3:30])[CH3:31])=[O:34],CS(=O)(=O)[O:101][CH:1]([C:2]([NH:3][c:4]1[cH:5][c:6]2[cH:7][n:8][n:9]([C:10]([O:11][C:12]([CH3:13])([CH3:14])[CH3:15])=[O:16])[c:17]2[cH:18][cH:19]1)=[O:20])[c:21]1[cH:22][cH:23][cH:24][c:25]([Cl:26])[cH:27]1.[CH3:28][C:29]([CH3:30])([CH3:31])[O:32][C:33](=[O:34])[NH:35][CH2:36][CH2:37][NH2:38]>>[CH:1]([C:2]([NH:3][c:4]1[cH:5][c:6]2[cH:7][n:8][n:9]([C:10]([O:11][C:12]([CH3:13])([CH3:14])[CH3:15])=[O:16])[c:17]2[cH:18][cH:19]1)=[O:20])([c:21]1[cH:22][cH:23][cH:24][c:25]([Cl:26])[cH:27]1)[NH:38][CH2:37][CH2:36][NH:35][C:33]([O:32][C:29]([CH3:28])([CH3:30])[CH3:31])=[O:34],SN2,"[(38, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O=[CH:1][c:2]1[c:3]([F:4])[cH:5][c:6]([Br:7])[cH:8][c:9]1[F:10].[CH2:12]1[CH2:11][CH2:15][NH:14][CH2:13]1>>[CH2:1]([c:2]1[c:3]([F:4])[cH:5][c:6]([Br:7])[cH:8][c:9]1[F:10])[N:14]1[CH2:13][CH2:12][CH2:11][CH2:15]1,[O:101]=[CH:1][c:2]1[c:3]([F:4])[cH:5][c:6]([Br:7])[cH:8][c:9]1[F:10].[CH2:11]1[CH2:12][CH2:13][NH:14][CH2:15]1.[H+:301].[BH3-:302]C#N.[Na+]>>[CH2:1]([c:2]1[c:3]([F:4])[cH:5][c:6]([Br:7])[cH:8][c:9]1[F:10])[N:14]1[CH2:13][CH2:12][CH2:11][CH2:15]1,reductive_amination,"[(14, 1), ([1, 101], 301), (101, 14.1), ([14.1, 14], 14), (14, [14, 1]), ([1, 101], 101), ([302, 302.1], 1), ([1, 14], 14)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
